US07060827B2
In like manner to the preparation of 2-chloro-5-fluoro-N4-[3-(1H-tetrazol-5-yl)phenyl]-4-pyrimidineamine the reaction of 2,4-dichloro-5-fluoropyrimidine with 3-amino-2.6-dimethoxypyridine gave 2-chloro-N4-(2,6-dimethoxypyridin-3-yl)-5-fluoro-4-pyrimidineamine. 1H NMR (CDCl3): δ 8.57 (d, 1H, J=8.7 Hz), 8.02 (d, 1H, J=2.7 Hz), 6.40 (d, 1H, J=8.1 Hz), 4.03 (s, 3H), 3.98 (s, 3H); 19F NMR (CDCl3): −44640; LCMS: purity: 90%; MS (m/e): 285 (M+).

reactant | 2,4-dichloro-5-fluoropyrimidine | ClC1=NC=C(C(=N1)Cl)F | C4HCl2FN2
reactant | 3-amino-2.6-dimethoxypyridine | NC=1C(=NC(=CC1)OC)OC | C7H10N2O2
product | 2-chloro-N4-(2,6-dimethoxypyridin-3-yl)-5-fluoro-4-pyrimidineamine | ClC1=NC=C(C(=N1)NC=1C(=NC(=CC1)OC)OC)F | C11H10ClFN4O2
